US08334295B2
4-Chloro-2,6-dimethoxy-5-(2,2,2-trifluoro-ethyl)-pyrimidine:
To a solution of 2,4,6-trichloro-5-(2,2,2-trifluoro-ethyl)-pyrimidine (0.633 g, 2.39 mmol) in methanol (20 mL) at 0° C. was added sodium methoxide (25 wt %, 1.09 mL, 4.77 mmol). The reaction mixture was warmed to room temperature overnight. The reaction mixture was concentrated, dissolved in ethyl ether and washed with water. The organic layer was dried (MgSO4), concentrated and purified by flash column chromatography (silica gel, 0 to 10% ethyl acetate/hexane) to give a colorless oil (0.5531 g, 90%). 1H NMR (300 MHz, CDCl3): δ 3.87 (s, 3H), 3.83 (s, 3H), 3.32 (q, J=10.2 Hz, 2H); Mass spectrum: 257.1, 259.1 (M+H).

reactant | 2,4,6-trichloro-5-(2,2,2-trifluoro-ethyl)-pyrimidine | 2.39 mmol, 0.633 g | ClC1=NC(=C(C(=N1)Cl)CC(F)(F)F)Cl | C6H2Cl3F3N2
reactant | sodium methoxide | 4.77 mmol, 1.09 mL | C[O-].[Na+]
reactant | methanol | 20 mL | CO | CH4O
product | 4-Chloro-2,6-dimethoxy-5-(2,2,2-trifluoro-ethyl)-pyrimidine | 0.5531 g, 90% | ClC1=NC(=NC(=C1CC(F)(F)F)OC)OC | C8H8ClF3N2O2
